US07112697B1
1-Methoxy-4-(phenylthio)benzene (entry 3, Table 1):
The general procedure was used to convert 4-iodoanisole and thiophenol to the title product. Purification by flash chromatography (hexane/CH2Cl2 [3:1] as the eluent) gave the analytically pure product as a clear oil (416 mg, 96% yield). 1H NMR (300 MHz, CDCl3) δ 7.29 (dt, J=7.72, 2H; Ha, Ha′), 7.13–6.97 (m, 5H; Hc, Hc′, Hd, Hd′, He), 6.77 (d, J=7.54, 2H; Hb, Hb′), 3.67 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 159.74 (C4), 138.54 (C8), 135.29 (C2, C6), 128.85 (C9, C13), 128.08 (C10, C12), 125.66 (C11), 124.17 (C1), 114.90 (C3, C5), 55.23 (C7). Anal. Calcd. for C13H12OS: C, 72.19; H, 5.59; S, 14.82; Found C, 72.34; H, 5.70; S, 14.81.

reactant | 4-iodoanisole | IC1=CC=C(C=C1)OC | C7H7IO
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 1-Methoxy-4-(phenylthio)benzene | COC1=CC=C(C=C1)SC1=CC=CC=C1 | C13H12OS
